US04680293
6-Chloro-3-[3-(1H-imidazol-1-yl)-2-methylpropyl]-1,2,3-benzotriazin-4(3H)-one
A solution of 5.86 g of 2-amino-5-chloro-N-[3-(1H-imidazol-1-yl)-2-methylpropyl]benzamide in 30 ml of water and 8.3 ml of concentrated hydrochloric acid was cooled in an ice bath and a solution of 1.42 g of sodium nitrite in 10 ml of water was added dropwise. The mixture was stirred, treated for 50 minutes with 10 ml of 10N sodium hydroxide, stirred for 50 minutes and acetic acid was added until a pH of 6-7 was reached. The product was extracted into methylene chloride and the organic layer was washed with water, dried over magnesium sulfate and concentrated. Treatment with ethyl ether resulted in crystals of the desired product, mp 100°-102° C. A sample was converted to the hydrochloride salt, mp 185°-188° C.

reactant | 2-amino-5-chloro-N-[3-(1H-imidazol-1-yl)-2-methylpropyl]benzamide | 5.86 g | NC1=C(C(=O)NCC(CN2C=NC=C2)C)C=C(C=C1)Cl | C14H17ClN4O
reactant | sodium nitrite | 1.42 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 10N, 10 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
solvent | hydrochloric acid | 8.3 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 6-Chloro-3-[3-(1H-imidazol-1-yl)-2-methylpropyl]-1,2,3-benzotriazin-4(3H)-one | ClC=1C=CC2=C(C(N(N=N2)CC(CN2C=NC=C2)C)=O)C1 | C14H14ClN5O
